US09382188B2
step 5) 2′-fluoro-5′-methoxy-2-(5-(trifluoromethyl)-1,3,4-thiadiazol-2-yl)-[1,1′-biphenyl]-4-ol
Trifluoroacetic acid (5.0 mL) was added to 2-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-5-(trifluoromethyl)-1,3,4-thiadiazole (299 mg) and anisole (0.66 mL) at room temperature, and the mixture was stirred at room temperature for 1.5 hr. The reaction mixture was concentrated under reduced pressure, aqueous sodium hydrogen carbonate solution was added, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (200 mg) as a white solid.

reactant | Trifluoroacetic acid | 5.0 mL | FC(C(=O)O)(F)F | C2HF3O2
reactant | 2-(2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-yl)-5-(trifluoromethyl)-1,3,4-thiadiazole | 299 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)OCC1=CC=C(C=C1)OC)C=1SC(=NN1)C(F)(F)F | C24H18F4N2O3S
reactant | anisole | 0.66 mL | C1(=CC=CC=C1)OC | C7H8O
product | 2′-fluoro-5′-methoxy-2-(5-(trifluoromethyl)-1,3,4-thiadiazol-2-yl)-[1,1′-biphenyl]-4-ol | 200 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)O)C=1SC(=NN1)C(F)(F)F | C16H10F4N2O2S
